US07479502B2
A 500 mL round bottom flask was charged with a 1.6 M solution of n-butyllithium in hexanes (100 mL, 0.16 mol) and flushed with nitrogen. The solution was cooled to −78° C. and a solution of 2-bromo-4-fluoro-1-methoxymethoxy-benzene (30.1 g, 0.13 mol) in dry tetrahydrofuran (50 mL) was added dropwise over one hour. The mixture was stirred at −78° C. and then trimethylborate (20 mL, 0.175 mol) was added very slowly via syringe. The reaction was allowed to gradually warm to room temperature and after two hours the mixture was poured into ice. The mixture was acidified to pH 4 with 5% aqueous citric acid and extracted with ethyl acetate (×3). The combined organic extracts were washed with water and brine, dried over MgSO4 and filtered. The solvent was evaporation under reduced pressure and the residue was recrystallized from hexanes give 2-methoxymethoxy-5-fluorophenylboronic acid (18.9 g).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-bromo-4-fluoro-1-methoxymethoxy-benzene | 0.13 mol, 30.1 g | BrC1=C(C=CC(=C1)F)OCOC | C8H8BrFO2
reactant | trimethylborate | 0.175 mol, 20 mL | COB(OC)OC | C3H9BO3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-methoxymethoxy-5-fluorophenylboronic acid | 18.9 g | COCOC1=C(C=C(C=C1)F)B(O)O | C8H10BFO4
